US06727264B1
N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-2-FURAMIDE:
Prepared by Procedure Q1 and Scheme AC using N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 2-furoyl chloride: ESMS m/e: 474.2 (M+H)+.

reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-2-FURAMIDE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CC[C@@H](C1=CC=CC=C1)NC(=O)C=1OC=CC1 | C29H35N3O3
